US04314944
A 0.284 g (0.765 mmole) portion of 4-(2-di-n-propylaminoethyl)-7-methoxy-2(3H)-indolone hydrobromide was placed in a flask and approximately 5 ml of constant boiling hydrobromic acid was distilled (from stannous chloride) directly into the flask. The resulting mixture was stirred at reflux under an argon atmosphere for 3 hours. Evaporation of the solvents produced a solid residue which was recrystallized twice from methanol-ethyl acetate to provide 0.206 g (75%) of 4-(2-di-n-propylaminoethyl)-7-hydroxy-2(3H)-indolone hydrobromide. m.p. 252°-254°.

reactant | 4-(2-di-n-propylaminoethyl)-7-methoxy-2(3H)-indolone hydrobromide | Br.C(CC)N(CCC1=C2CC(NC2=C(C=C1)OC)=O)CCC
reactant | hydrobromic acid | Br | BrH
product | 4-(2-di-n-propylaminoethyl)-7-hydroxy-2(3H)-indolone hydrobromide | 0.206 g, 75% | Br.C(CC)N(CCC1=C2CC(NC2=C(C=C1)O)=O)CCC | InChI=1S/C16H24N2O2.BrH/c1-3-8-18(9-4-2)10-7-12-5-6-14(19)16-13(12)11-15(20)17-16;/h5-6,19H,3-4,7-11H2,1-2H3,(H,17,20);1H
